US07071340B2
45 g (0.3 mol) of sodium iodide, 16.5 (0.12 mol) of potassium carbonate and 17.36 ml (0.15 mol) of 3-chloro-2-chloromethyl-1-propene are added to 10.4 ml (0.1 mol) of 2-hydroxybenzaldehyde in solution in acetone. The mixture is left at reflux of the solvent for 12 hours and then the solvent is evaporated. The medium is diluted in ether and the organic phases are subsequently washed successively with a saturated sodium sulfite solution and with brine and are then dried over magnesium sulfate. Purification by chromatography on silica gel (ethyl ether/heptane 30/70) provides 21.1 g (70%) of 2-{[2-(chloromethyl)-2-propenyl]oxy}benzaldehyde; 1H NMR (300 MHz, CDCl3): 10.46 (s, 1H), 7.82 (dd, J=8.4 and 2.4 Hz, 1H), 7.5 (dd, J=2.4 Hz and 8.4 Hz, 1H), 7.00 (m, 2H), 5.49 and 5.32 (2s, 2H), 4.78 (s, 2H), 4.01 (s, 2H).

reactant | sodium iodide | 0.3 mol, 45 g | [I-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-2-chloromethyl-1-propene | 0.15 mol, 17.36 ml | ClCC(=C)CCl | C4H6Cl2
reactant | 2-hydroxybenzaldehyde | 0.1 mol, 10.4 ml | OC1=C(C=O)C=CC=C1 | C7H6O2
solvent | acetone | CC(=O)C | C3H6O
product | 2-{[2-(chloromethyl)-2-propenyl]oxy}benzaldehyde | 21.1 g, 70% | ClCC(COC1=C(C=O)C=CC=C1)=C | C11H11ClO2
